US07572820B2
4-(Trifluoromethyl)-1-[(5-{3-[(trifluoromethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)methyl]-1H-indole-5-carbonitrile
Synthesized as described in Example 72 from 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide and 3-[(trifluoromethyl)oxy]benzoic acid: MS (APCl): m/z 453 (M+1).

reactant | 2-[5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]-N-hydroxyethanimidamide | C(#N)C=1C(=C2C=CN(C2=CC1)CC(NO)=N)C(F)(F)F | C12H9F3N4O
reactant | 3-[(trifluoromethyl)oxy]benzoic acid | FC(OC=1C=C(C(=O)O)C=CC1)(F)F | C8H5F3O3
product | 4-(Trifluoromethyl)-1-[(5-{3-[(trifluoromethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)methyl]-1H-indole-5-carbonitrile | FC(C1=C2C=CN(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC=C1)OC(F)(F)F)(F)F | C20H10F6N4O2
